Va a gnd PWL (0n 0 2n 0 2.01n 0.7 6n 0.7 6.01n 0 10n 0 10.01n 0.7 14n 0.7 14.01n 0 20n 0 20.01n 0.7 24n 0.7 24.01n 0 28n 0 28.01n 0.7 32n 0.7 32.01n 0 42n 0 42.01n 0.7 52n 0.7 )
Vb b gnd PWL (0n 0 4n 0 4.01n 0.7 12n 0.7 12.01n 0 18n 0 18.01n 0.7 26n 0.7 26.01n 0 36n 0 36.01n 0.7 40n 0.7 40.01n 0 46n 0 46.01n 0.7 50n 0.7 50.01n 0 52n 0 )
Vc c gnd PWL (0n 0 8n 0 8.01n 0.7 16n 0.7 16.01n 0 22n 0 22.01n 0.7 30n 0.7 30.01n 0 34n 0 34.01n 0.7 38n 0.7 38.01n 0 44n 0 44.01n 0.7 48n 0.7 48.01n 0 52n 0 )

* Medindo tempo de propagação:

* Arco 00a
.measure tran tplh_00a trig v(a) val= '0.5*0.7' rise=5 targ v(s) val= '0.5*0.7' rise=11

* Arco 0b1
.measure tran tphl_0b1 trig v(b) val= '0.5*0.7' fall=1 targ v(s) val='0.5*0.7' fall=1

* Arco 01a
.measure tran tplh_01a trig v(a) val= '0.5*0.7' rise=1 targ v(s) val= '0.5*0.7' rise=2

* Arco c10
.measure tran tphl_c10 trig v(c) val= '0.5*0.7' fall=1 targ v(s) val='0.5*0.7' fall=2

* Arco 11a
.measure tran tplh_11a trig v(a) val= '0.5*0.7' rise=2 targ v(s) val= '0.5*0.7' rise=3

* Arco 1b1
.measure tran tphl_1b1 trig v(b) val= '0.5*0.7' fall=1 targ v(s) val='0.5*0.7' fall=3

* Arco 10a
.measure tran tplh_10a trig v(a) val= '0.5*0.7' rise=2 targ v(s) val= '0.5*0.7' rise=4

* Arco c00
.measure tran tphl_c00 trig v(c) val= '0.5*0.7' fall=1 targ v(s) val='0.5*0.7' fall=4

* Arco 0b0
.measure tran tplh_0b0 trig v(b) val= '0.5*0.7' rise=2 targ v(s) val= '0.5*0.7' rise=5

* Arco 01a
.measure tran tphl_01a trig v(a) val= '0.5*0.7' fall=3 targ v(s) val='0.5*0.7' fall=5

* Arco c11
.measure tran tplh_c11 trig v(c) val= '0.5*0.7' rise=2 targ v(s) val= '0.5*0.7' rise=6

* Arco 11a
.measure tran tphl_11a trig v(a) val= '0.5*0.7' fall=3 targ v(s) val='0.5*0.7' fall=6

* Arco 1b0
.measure tran tplh_1b0 trig v(b) val= '0.5*0.7' rise=2 targ v(s) val= '0.5*0.7' rise=7

* Arco 10a
.measure tran tphl_10a trig v(a) val= '0.5*0.7' fall=4 targ v(s) val='0.5*0.7' fall=7

* Arco c01
.measure tran tplh_c01 trig v(c) val= '0.5*0.7' rise=2 targ v(s) val= '0.5*0.7' rise=8

* Arco 00a
.measure tran tphl_00a trig v(a) val= '0.5*0.7' fall=4 targ v(s) val='0.5*0.7' fall=8

* Arco c00
.measure tran tplh_c00 trig v(c) val= '0.5*0.7' rise=3 targ v(s) val= '0.5*0.7' rise=9

* Arco 1b0
.measure tran tphl_1b0 trig v(b) val= '0.5*0.7' fall=3 targ v(s) val='0.5*0.7' fall=9

* Arco c10
.measure tran tplh_c10 trig v(c) val= '0.5*0.7' rise=3 targ v(s) val= '0.5*0.7' rise=10

* Arco 0b0
.measure tran tphl_0b0 trig v(b) val= '0.5*0.7' fall=3 targ v(s) val='0.5*0.7' fall=10

* Arco 00a
.measure tran tplh_00a trig v(a) val= '0.5*0.7' rise=5 targ v(s) val= '0.5*0.7' rise=11

* Arco c01
.measure tran tphl_c01 trig v(c) val= '0.5*0.7' fall=4 targ v(s) val='0.5*0.7' fall=11

* Arco 1b1
.measure tran tplh_1b1 trig v(b) val= '0.5*0.7' rise=4 targ v(s) val= '0.5*0.7' rise=12

* Arco c11
.measure tran tphl_c11 trig v(c) val= '0.5*0.7' fall=4 targ v(s) val='0.5*0.7' fall=12

* Arco 0b1
.measure tran tplh_0b1 trig v(b) val= '0.5*0.7' rise=4 targ v(s) val= '0.5*0.7' rise=13

